Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Transient right-handed weakness, facial droop, and paresthesias
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ old right-handed man with a past 
medical
history of subarachnoid hemorrhage secondary to right
internal carotid artery bifurcation aneurysm ___ who presents
with a transient episode of right hand weakness and paresthesias
as well as right facial droop.

Patient recently drove from ___ to ___ this past week 
to
visit his mother, totaling 44 hours driving combined over 5 
days.
On the way home from his trip, around 4:45 ___ on ___, he
pulled into a gas station and was about to begin pumping gas,
when he had the sudden onset of right hand numbness.  This was
accompanied by difficulty moving his fingers and he was unable 
to
get his fingers to grasp the handle of the gasoline pump,
therefore he had to use his left hand to pump gas.  He was able
to walk to the restroom where he looked in the mirror and 
noticed
that the right side of his mouth was drooping.  He went to the
store to buy a drink and the cashier asked him a question but he
felt that it was difficult to get the words out and was only 
able
to say 1 word.  He had no difficulty walking. He had no symptoms
in the leg.  He did not have any blurry vision or double vision.

He got back in the car despite persistent symptoms and was able
to drive straight without veering.  He did not have any blind
spots in his field of vision.  He continued driving and the
symptoms subsided after approximately 40 minutes.  Afterwards, 
he
felt completely back to normal.  Patient denies ever having had
similar symptoms.  He has not had recurrent symptoms.

He called his PCP after arriving home to ___ and discussing
with his wife, who recommended he present to the emergency
department.  Neurology was consulted for further management.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties 
comprehending speech. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
Subarachnoid hemorrhage secondary to right internal carotid
artery bifurcation aneurysm ___, no residual deficits
Probable undiagnosed obstructive sleep apnea according to
patient's partner.
 
Social History:
___
Family History:
Mother with MI and CHF
Father with ruptured aneurysm
 
Physical Exam:
==============
ADMISSION EXAM
==============
Vitals: T: 98.0 P: 70 R: 16  BP: 167/82 SaO2: 100 RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.  No calf pain or tenderness.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5   5     5      5   
R  5    ___   ___    5   5     5      5   

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No extinction to DSS. Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

==============
DISCHARGE EXAM
==============
Essentially unchanged (Normal). 

 
Pertinent Results:
====
LABS
====

___ 07:50AM BLOOD WBC-5.7 RBC-4.60 Hgb-14.8 Hct-43.4 MCV-94 
MCH-32.2* MCHC-34.1 RDW-12.4 RDWSD-42.5 Plt ___
___ 07:40AM BLOOD WBC-5.3 RBC-4.27* Hgb-14.0 Hct-40.6 
MCV-95 MCH-32.8* MCHC-34.5 RDW-12.4 RDWSD-42.8 Plt ___
___ 03:48PM BLOOD WBC-6.3 RBC-4.58* Hgb-14.9 Hct-43.4 
MCV-95 MCH-32.5* MCHC-34.3 RDW-12.4 RDWSD-42.7 Plt ___
___ 03:48PM BLOOD Neuts-67.3 ___ Monos-6.1 Eos-1.6 
Baso-0.3 Im ___ AbsNeut-4.22 AbsLymp-1.53 AbsMono-0.38 
AbsEos-0.10 AbsBaso-0.02
___ 07:40PM BLOOD ___ PTT-35.3 ___
___ 09:20AM BLOOD ___ PTT-34.1 ___
___ 07:40AM BLOOD ___ PTT-31.5 ___
___ 07:40PM BLOOD AT-112 ProtCFn-132 ProtSFn-119
___ 07:50AM BLOOD Glucose-86 UreaN-17 Creat-0.9 Na-141 
K-4.0 Cl-103 HCO3-25 AnGap-17
___ 07:40AM BLOOD Glucose-89 UreaN-13 Creat-0.9 Na-144 
K-3.8 Cl-104 HCO3-24 AnGap-20
___ 03:48PM BLOOD Glucose-91 UreaN-14 Creat-0.8 Na-141 
K-3.8 Cl-103 HCO3-28 AnGap-14
___ 07:40AM BLOOD ALT-15 AST-16 AlkPhos-62 TotBili-1.3
___ 07:40AM BLOOD Calcium-8.7 Phos-3.9 Mg-2.1
___ 03:56PM BLOOD %HbA1c-4.9 eAG-94
___ 03:48PM BLOOD Triglyc-142 HDL-39 CHOL/HD-4.8 
LDLcalc-120
___ 07:40AM BLOOD TSH-3.3
___ 07:40PM BLOOD ___
___ 07:40PM BLOOD CRP-0.9
___ 03:48PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:40PM BLOOD SED RATE-2
___ 11:14PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-NEG     
 
___ 11:14PM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-NEG      

=======
IMAGING
=======
- ___ CTA head & neck  
 1. Examination is limited by streak artifact from right MCA 
aneurysm clip and dental amalgam.  
 2. No acute intracranial abnormality.  
 3. Chronic right frontal and left cerebellar infarcts.  
 4. Postsurgical changes from right MCA aneurysm clipping.  
 5. Patent intracranial arterial vasculature without significant 
stenosis, occlusion, or aneurysm.  
 6. Patent cervical vasculature without significant stenosis, 
occlusion, or dissection.  
 7. Question 3 mm left apical subpleural lung nodule versus 
subpleural  
 scarring. The ___ guidelines for pulmonary 
nodule guidelines suggest for pulmonary nodules less than or 
equal to 4 mm, no follow-up needed in low-risk patients, and 12 
month follow-up in high risk patients.  
 RECOMMENDATION(S): Question 3 mm left apical subpleural lung 
nodule versus subpleural scarring. The ___ 
guidelines for pulmonary nodule guidelines suggest for pulmonary 
nodules less than or equal to 4mm, no follow-up needed in 
low-risk patients, and 12 month follow-up in high risk patients. 
 

- ___ MRI head  
 1. Aneurysm clip artifact limits examination.  
 2. Multiple punctate left MCA distribution acute to subacute 
infarcts, concerning for embolic in etiology.  
 3. Postsurgical changes from right pterional craniotomy and MCA 
aneurysm  
 clipping.  
 4. Chronic right frontal and left cerebellar infarcts.  
 5. No hemorrhage, or large mass.  
 6. Minimal paranasal sinus disease, as described.  

- ___ TTE  
 The left atrium and right atrium are normal in cavity size. 
With maneuvers, there is early appearance of agitated 
saline/microbubbles in the left atrium/left ventricle most 
consistent with a patent foramen ovale. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). No masses or thrombi are seen in the left 
ventricle. Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The aortic root is 
mildly dilated at the sinus level. The ascending aorta is mildly 
dilated. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.  
 IMPRESSION: Patent foramen ovale. Normal global and regional 
biventricular systolic function.  

- ___ Bilateral lower extremity venous Doppler  
 No evidence of deep venous thrombosis in the right or left 
lower extremity veins.  

- ___ MRV Pelvis
No evidence of venous thrombosis in the pelvis.  Slit-like IVC, 
suggestive of hypovolemia. 

 
Brief Hospital Course:
Mr. ___ is a healthy ___ year-old man who presented with 
symptoms of right-hand weakness and facial droop and was found 
to have multiple punctate left MCA distribution acute to 
subacute infarcts, and, chronic right frontal and left 
cerebellar infarcts. His exam is completely normal. The 
distribution and timing of his infarcts were most concerning for 
an embolic etiology. TTE demonstrated a PFO. Lower extremity 
ultrasound did not find any DVTs, MRV pelvis was also negative, 
and there was no a-fib on telemetry. Hypercoagulability labs 
were sent, and he will be set up for further cardiac monitoring 
with ___ outpatient. If no atrial fibrillation is 
found on this, he should be referred to EP cardiology for a 
REVEAL device to monitor his heart rhythm long-term. He was 
started on apixaban 5mg BID for secondary stroke prevention 
given the high suspicion for a cardioembolic source and will 
follow-up with Dr. ___ stroke neurology. He was also 
referred to sleep medicine for reported apneic episodes. 
- CONTINUE apixaban 5mg BID. 
- CONTINUE atorvastatin 40mg DAILY. 
- Follow-up with 30-day event monitor ___ of Hearts). If 
negative follow-up with EP for REVEAL device. 
- Follow-up hypercoagulability labs (genetic/serologic)
- Follow-up with Dr. ___ as outpatient.  

# Solitary lung nodule vs apical scarring: 3mm  
 - No follow-up required given low-risk patient.  

# Reported apneic episodes
- Referred to sleep medicine follow-up. 

===================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? () Yes (LDL = 120 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ACUTE ISCHEMIC STROKE
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of right hand weakness and 
facial droop resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
- Patent foramen ovale (aka PFO) 
- high cholesterol
- We are still investigating possibilities such as atrial 
fibrillation or blood hypercoagulability disorders. 

We are changing your medications as follows:
- START apixaban (Eliquis) 5mg TWICE PER DAY
- START atorvastatin (Lipitor) 40mg AT NIGHT

Please take your other medications as prescribed.

We have placed an order for further cardiac monitoring with a 
___ of Hearts. Please call ___ to make an appointment 
to have this placed. If this does not show atrial fibrillation, 
then we recommend further cardiac monitoring with a long term 
monitoring device, which will require a procedure. 

The results of your MRV are still pending. We will call you if 
the results is abnormal.

We also ordered two genetic tests. These need to be drawn 
outpatient.

Please followup with Neurology and your primary care physician.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___